US07524843B2
b) 2-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1-ethyl-1H-indole
NaH (60% dispersion in mineral oil, 0.25 g, 7.1 mmole) was added portionwise, allowing for gas evolution, to a solution of 2-[N-(benzyloxycarbonyl)-N-methylaminomethyl]-1H-indole (1.40 g, 4.75 mmole) in DMF (35 mL) at 0° C. When the NaH addition was complete, ethyl iodide (0.42 mL, 5.2 mmole) was added at 0° C. The reaction was stirred at 0° C. for 15 minutes then at RT overnight. The reaction was diluted with water and extracted with ethyl acetate. The combined extracts were dried over K2CO3 and concentrated to afford the title compound (1.30 g, 87%) as an orange solid: MS (ES) m/e 323 (M+H)+.

reactant | NaH | 7.1 mmole, 0.25 g | [H-].[Na+]
reactant | 2-[N-(benzyloxycarbonyl)-N-methylaminomethyl]-1H-indole | 4.75 mmole, 1.40 g | C(C1=CC=CC=C1)OC(=O)N(C)CC=1NC2=CC=CC=C2C1 | C18H18N2O2
reactant | ethyl iodide | 5.2 mmole, 0.42 mL | C(C)I | C2H5I
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[N-(Benzyloxycarbonyl)-N-methylaminomethyl]-1-ethyl-1H-indole | 1.30 g, 87% | C(C1=CC=CC=C1)OC(=O)N(C)CC=1N(C2=CC=CC=C2C1)CC | C20H22N2O2
